US04985419
1,2-Diaminocyclohexane (15.78 cc) is added to an ethanolic solution (70 cc) of 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide (5.20 g). The mixture is heated in an autoclave to 150° C. for 17 hours. After cooling, the reaction mixture is diluted with ethyl acetate (250 cc) and washed with j distilled water (5×250 cc). The organic phase is extracted with normal hydrochloric acid solution (300 cc). After separation of the organic phase when settling has taken place, the acidic aqueous phase is alkalinized with concentrated caustic soda and extracted with ethyl acetate (200 cc). The organic phase is separated after settling has taken place, dried over magnesium sulpate, filtered and evaporated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is chromatographed on a column (height: 52 cm; diameter: 2.5 cm) of silica gel (0.2-0.06 mm), eluting with pure ethyl acetate (2 liters) and collecting 120-cc fractions. The first liter is discarded, and fractions 4 to 7 containing the pure product are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 7-chloro-2-(3a, 4, 5, 6, 7, 7a-hexahydro-1H-benzimidazol-2 -yl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine (0.72 g) in the form of a yellow solid, m.p. 120° C.

reactant | 1,2-Diaminocyclohexane | 15.78 cc | NC1C(CCCC1)N | C6H14N2
reactant | 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 70 cc, 5.20 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CN1CCCC1)C)C(N)=S | C20H22ClN3S2
solvent | ethyl acetate | 250 cc | C(C)(=O)OCC | C4H8O2
product | 7-chloro-2-(3a, 4, 5, 6, 7, 7a-hexahydro-1H-benzimidazol-2 -yl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine | 0.72 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CN1CCCC1)C)C1=NC2C(N1)CCCC2 | C26H31ClN4S
